US07951802B2
4-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)thiazole-2-carboxylic acid (XXIII-b)
To a stirred solution of ethyl 4-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)thiazole-2-carboxylate hydrobromide (XXIII-a) (4.03 g, 9.30 mmol) in water:THF 1:1 (50 mL) was added LiOH·H2O (900 mg, 21.45 mmol) portionwise over 30 min. After stirring for 3 h, the reaction mixture was filtered to afford a yellow solid (2.49 g). The filtrate was then concentration to ˜20 mL by evaporation, and filtered again to afford a further 820 mg of yellow solid. The solids were combined to afford (XXIII-b) (3.31g, crude yield >100%). 1H NMR (400 MHz, D-6 DMSO) δ 7.76 (s, 1H), 8.03 (s, 1H), 7.73-7.78 (m, 3H), 8.32 (d, J=2.3 Hz, 1H), 8.74 (d, J=2.3 Hz, 1H), 12.09 (br s, 1H).

reactant | ethyl 4-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)thiazole-2-carboxylate hydrobromide | 9.30 mmol, 4.03 g | Br.BrC=1C=C2C(=NC1)NC=C2C=2N=C(SC2)C(=O)OCC
reactant | LiOH·H2O | 21.45 mmol, 900 mg | O[Li].O
solvent | water THF | 50 mL | O.C1CCOC1
product | 4-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)thiazole-2-carboxylic acid | 2.49 g | BrC=1C=C2C(=NC1)NC=C2C=2N=C(SC2)C(=O)O | C11H6BrN3O2S
